US07598244B2
Synthesis of 7-thiophen-2-yl[1,2,4]triazolo[1,5-a]pyrimidin-2-ylamine
The obtained 3-dimethylamino-1-thiophen-2-ylpropenone (10.78 g) was dissolved in toluene (160 ml). Thereafter, 3,5-diamino-1,2,4-triazole (14.15 g) was added to the solution, and the obtained mixture was stirred at 100° C. After 10-camphorsulfonic acid (13.82 g) was added thereto, the mixture was heated to reflux for 1.5 hours. The reaction solution was cooled to a room temperature, and the supernatant was then eliminated (decant). The residue was washed by successive suspension in an aqueous 5% sodium carbonate-10% ethanol solution, a 10% ethanol solution, ethanol, and methylene chloride. The resultant was then dried under a reduced pressure to obtain the captioned compound (8.55 g).

reactant | 3,5-diamino-1,2,4-triazole | 14.15 g | NC1=NNC(=N1)N | C2H5N5
reactant | 10-camphorsulfonic acid | 13.82 g | C12(C(=O)CC(CC1)C2(C)C)CS(=O)(=O)O | C10H16O4S
solvent | toluene | 160 ml | C1(=CC=CC=C1)C | C7H8
product | 7-thiophen-2-yl[1,2,4]triazolo[1,5-a]pyrimidin-2-ylamine | 8.55 g | S1C(=CC=C1)C1=CC=NC=2N1N=C(N2)N | C9H7N5S
